US06326369B1
8-(2-Ethoxycarbonyl-5,6-dimethoxy-4,7-dioxoindan-2-yl)octanoic acid
A water (1 ml) solution of CAN (238 mg, 0.435 mmols) was dropwise added to an acetonitrile (2 ml) solution of 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoic acid (78.6 mg, 0.174 mmols) with cooling with ice and then stirring was continued for 15 minutes. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and then dried. The solvent was evaporated in vacuo and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=4:1 to ethyl acetate only) to obtain the entitled compound (50 mg) as an oil.

reactant | CAN | 0.435 mmols, 238 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | acetonitrile | 2 ml | C(C)#N | C2H3N
reactant | 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoic acid | 0.174 mmols, 78.6 mg | C(C)OC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCC(=O)O | C24H36O8
solvent | Water | O | H2O
solvent | water | 1 ml | O | H2O
product | 8-(2-Ethoxycarbonyl-5,6-dimethoxy-4,7-dioxoindan-2-yl)octanoic acid | 50 mg | C(C)OC(=O)C1(CC=2C(C(=C(C(C2C1)=O)OC)OC)=O)CCCCCCCC(=O)O | C22H30O8
